US07888383B2
c) 1-Bromomethyl-4-methanesulfonyl-2-trifluoromethyl-benzene
To a suspension of (4-methanesulfonyl-2-trifluoromethyl-phenyl)-methanol (50.3 g, 0.20 mol) in dry Et2O (400 ml), cooled to 0° C., is added PBr3 (6.5 ml, 0.07 mol) dropwise over 10 min. A sticky, thick yellow suspension forms which upon agitation and warming to room temperature changes to a fine white suspension. The reaction mixture is cooled again to 0° C. and water (200 ml) is added slowly. The suspension is neutralised at 10° C. with 4N NaOH aq (30 ml). The product is collected by filtration to give a white solid which is dried at 50° C. under high vacuum.

reactant | (4-methanesulfonyl-2-trifluoromethyl-phenyl)-methanol | 0.20 mol, 50.3 g | CS(=O)(=O)C1=CC(=C(C=C1)CO)C(F)(F)F | C9H9F3O3S
reactant | PBr3 | 0.07 mol, 6.5 ml | P(Br)(Br)Br | Br3P
reactant | water | 200 ml | O | H2O
reactant | NaOH | 4N, 30 ml | [OH-].[Na+]
solvent | Et2O | 400 ml | CCOCC | C4H10O
product | 1-Bromomethyl-4-methanesulfonyl-2-trifluoromethyl-benzene | BrCC1=C(C=C(C=C1)S(=O)(=O)C)C(F)(F)F | C9H8BrF3O2S
